US06441017B1
Step D: (S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide
(S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide, as described above in Step C, (1.27 g, 2.37 mmol) was dissolved in toluene (20 mL), Lawesson's Reagent (478 mg, 1.18 mmol) was added and the reaction mixture was heated to 50° C. for 5 hours. The mixture was concentrated in vacuo and the residue was chromatographed on silica gel, eluting with a gradient of CH2Cl2—1% to 5% MeOH—0.1% to 0.5% NH4OH, to yield the above-titled compound.

reactant | (S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H36N4O3
reactant | Lawesson's Reagent | 1.18 mmol, 478 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]thioacetamide | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=S | C33H36N4O2S
